US07163947B2
A solution of N-benzyl-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)amine (1.01 g, 3.04 mmol) in 50 mL of CH2Cl2 was treated with MCPBA (77% max., 1.02 g, 4.56 mmol). After stirring for 3 h, the reaction mixture was quenched with 2% Na2CO3 solution and extracted into CH2Cl2. The organic portion was washed with H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated to give N-benzyl-(2-ethoxymethy-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amine (0.99 g) as a light-yellow solid.

reactant | N-benzyl-(2-ethoxymethy-1H-imidazo[4,5-c]quinolin-1-yl)amine | 3.04 mmol, 1.01 g | C(C1=CC=CC=C1)NN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C20H20N4O
reactant | MCPBA | 4.56 mmol, 1.02 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-(2-ethoxymethy-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl)amine | 0.99 g | C(C1=CC=CC=C1)NN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])COCC | C20H20N4O2
